US06489344B1
2-({2-[(tert-butoxy)carbonylamino]ethyl}amino)-6-(4-cyanophenyl)pyrimidin-4-yl (trifluoromethyl)sulfonate (134 mg, 0.275 mmol) was dissolved in a 2M solution of morpholine in acetonitrile and the resulting solution heated to 90° C. for 18 h. The solution was cooled, water added and the suspension extracted thoroughly with ethyl acetate. Concentration of the combined organic layers gave a crude solid which was chromatographed (silica gel, 2% methanol/methylene chloride) to afford 234 mg of (tert-butoxy)-N-(2-{[4-(4-cyanophenyl)-6-morpholin-4-ylpyrimidin-2-yl]amino}ethyl)carboxamide as a off white solid. Removal of the tert-butoxy protecting group was accomplished in the following manner: the (tert-butoxy)-N-(2-{[4-(4-cyanophenyl)-6-morpholin-4-ylpyrimidin-2-yl]amino}ethyl)carboxamide produced as described above was dissolved in anhydrous hydrogen chloride in dioxane (2 mL of a 2M solution) and stirred at room temperature for 2 h. Concentration gave 134 mg of 4-{2-[(2-aminoethyl)amino]-6-imidazolyl-4-ylpyrimidin-4-yl}benzenecarbonitrile as its (2×) hydrochloride salt.

reactant | 2-({2-[(tert-butoxy)carbonylamino]ethyl}amino)-6-(4-cyanophenyl)pyrimidin-4-yl (trifluoromethyl)sulfonate | 0.275 mmol, 134 mg | FC(F)(F)S(=O)(=O)OC1=NC(=NC(=C1)C1=CC=C(C=C1)C#N)NCCNC(=O)OC(C)(C)C | C19H20F3N5O5S
reactant | water | O | H2O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | (tert-butoxy)-N-(2-{[4-(4-cyanophenyl)-6-morpholin-4-ylpyrimidin-2-yl]amino}ethyl)carboxamide | 234 mg | C(C)(C)(C)OC(=O)NCCNC1=NC(=CC(=N1)C1=CC=C(C=C1)C#N)N1CCOCC1 | C22H28N6O3
